US07541467B2
A mixture of 6-methoxy-2-methylquinoline (999 mg, 5.77 mmol), NBS (1.03 g, 5.77 mmol), AIBN (153 mg) and chlorobenzene (10 mL) was stirred at 120° C. for 2 hours, then added with AIBN (153 mg) again and further stirred for 4 hours with heating. The solvent was evaporated under reduced pressure, and then the residue was extracted with ether. The solvent was evaporated, and the residue was recrystallized from ethanol to obtain 6-methoxy-2-bromomethylquinoline as white powder (yield: 400 mg, 1.59 mmol, 28%).

reactant | 6-methoxy-2-methylquinoline | 5.77 mmol, 999 mg | COC=1C=C2C=CC(=NC2=CC1)C | C11H11NO
reactant | NBS | 5.77 mmol, 1.03 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 153 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
reactant | AIBN | 153 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | chlorobenzene | 10 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 6-methoxy-2-bromomethylquinoline | 1.59 mmol, yield: 400 mg, 28% | COC=1C=C2C=CC(=NC2=CC1)CBr | C11H10BrNO
